US07018988B2
(2S,4EZ)-N-benzyl-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(2-hydroxyethyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1-biphenyl]-4-carbonyl chloride, and 2-(benzylamino)ethanol, the title compound was obtained in 74% purity by HPLC. MS(ESI+): m/z=472.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 2-(benzylamino)ethanol | C(C1=CC=CC=C1)NCCO | C9H13NO
product | (2S,4EZ)-N-benzyl-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(2-hydroxyethyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)N(C(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCO | C28H29N3O4
